US09085583B2
To a stirred solution of 3-Amino-4-picoline (7 g, 64.8 mmol) in anhydrous THF (200 mL), sec-BuLi (150 mL, 1.3M in cyclohexane, 194 mmol) was added dropwise over 20 minutes at −78° C. The solution was warmed to room temperature and stirred at 3 hours. Ethyl acetate (2.3 g, 25.9 mmol) was added dropwise into the reaction at −78° C. and the mixture was stirred at the same temperature for 2 hours. Methanol (50 mL) was added dropwise into the reaction over 10 minutes. The mixture was warmed to room temperature and stirred for 1 hour. A half-saturated NH4Cl (250 mL) was added. The mixture was extracted with EA. The combined organic layers were washed with brine, dried and concentrated to afford the crude product. The crude product was purified by silica gel chromatography (petroleum ether/ethyl acetate=10:1) to afford 2-methyl-1H-pyrrolo[2,3-c]pyridine (2.5 g, 73.5%).

reactant | 3-Amino-4-picoline | 64.8 mmol, 7 g | NC=1C=NC=CC1C | C6H8N2
reactant | sec-BuLi | 194 mmol, 1.3M, 150 mL | [Li]C(C)CC
reactant | Ethyl acetate | 25.9 mmol, 2.3 g | C(C)(=O)OCC | C4H8O2
reactant | NH4Cl | 250 mL | [NH4+].[Cl-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | Methanol | 50 mL | CO | CH4O
product | 2-methyl-1H-pyrrolo[2,3-c]pyridine | 2.5 g, 73.5% | CC1=CC=2C(=CN=CC2)N1 | C8H8N2
